US07151105B2
Step 3: 6-[2-Cyclopentyl-4-(3-ethyl-4-methyl-phenyl)-2-hydroxy-butyl]-2,2-dimethyl-[1,3]dioxin-4-one
To a solution of 6-{4-[4-(tert-butyl-dimethyl-silanyloxymethyl)-3-ethyl-phenyl]-2-cyclopentyl-2-hydroxy-but-3-ynyl}-2,2-dimethyl-[1,3]dioxin-4-one (1.0 g) in EtOH (50 mL) was added Pd(OH)2 (20 wt %, 100 mg). The reaction was stirred under H2 atmosphere for 15 hours. The reaction was filtered through a pad of celite and the solvent was removed under reduced pressure to afford the desired product. 1H NMR (300 MHz, CDCl3): δ 1.19 (t, J=7.5 Hz, 3 H), 1.43–1.69 (m, 8 H), 1.71 (s, 6 H), 1.79–1.85 (m, 2 H), 2.05–2.16 (m, 1 H), 2.27 (s, 3 H), 2.44–2.66 (m, 6 H), 5.37 (s, 1 H), 6.89–6.95 (m, 2 H), 7.04–7.08 (m, 1 H).

reactant | 6-{4-[4-(tert-butyl-dimethyl-silanyloxymethyl)-3-ethyl-phenyl]-2-cyclopentyl-2-hydroxy-but-3-ynyl}-2,2-dimethyl-[1,3]dioxin-4-one | 1.0 g | C(C)(C)(C)[SiH2]OC(C1=C(C=C(C=C1)C#CC(CC1=CC(OC(O1)(C)C)=O)(O)C1CCCC1)CC)(C)C | C30H44O5Si
solvent | EtOH | 50 mL | CCO | C2H6O
catalyst | Pd(OH)2 | 100 mg | [OH-].[OH-].[Pd+2]
product | 6-[2-Cyclopentyl-4-(3-ethyl-4-methyl-phenyl)-2-hydroxy-butyl]-2,2-dimethyl-[1,3]dioxin-4-one | C1(CCCC1)C(CC1=CC(OC(O1)(C)C)=O)(CCC1=CC(=C(C=C1)C)CC)O | C24H34O4
